US04418202
2-(N,N-dimethylamino)ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate was prepared by reacting essentially equimolar amounts of ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate and N,N-dimethylaminoethanol. For the reaction, a small amount of sodium metal (1.13 wt. %) was reacted with the N,N-dimethylaminoethanol prior to the addition of the ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate. The reaction mixture was stirred for 35 minutes after which time gas chromatographic analysis indicated the reaction to be 70% complete. After workup of the reaction mixture, the crude product was vacuum distilled to obtain the 2-(N,N-dimethylamino)ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate (B.p. 97° C. at 0.015 mm Hg). The infrared spectrum was consistent with the structure. nmr (CDCl3)τ 3.97-4.85(3 vinyl H, mult.); 5.75(2H, tr.); 7.15-7.60(1H(2 ring position, hidden), mult); 7.37(2H, tr.); 7.74(6H,s); 7.85-8.55(2H(3 ring position), mult.).

reactant | ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCC)C#N | C9H11NO2
reactant | N,N-dimethylaminoethanol | CN(C)CCO | C4H11NO
reactant | sodium | [Na] | Na
product | 2-(N,N-dimethylamino)ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCCN(C)C)C#N | C11H16N2O2
